US05440036
4-Acetylamino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine (Compound No. 2)
Acetic acid (3 ml) was added to 123 mg of 4-amino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine, followed by refluxing for 1 hour. The acetic acid was distilled off under reduced pressure and the residue was dissolved in ethyl acetate. The resulting solution was washed first with a 1N aqueous solution of sodium hydroxide and then with water, and was dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by chromatography on a silica gel column, whereby 90 mg of Compound No. 2 were obtained (yield: 63%). EXAMPLE 2

reactant | 4-amino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine | 123 mg | NN1CC(OC2=C1C=C(C=C2)C(F)(F)F)(C)C | C11H13F3N2O
reactant | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 4-Acetylamino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine | yield: 63% | C(C)(=O)NN1CC(OC2=C1C=C(C=C2)C(F)(F)F)(C)C | C13H15F3N2O2
